US07534914B2
STEP 1. Methyl 5-chloro-2-[(3,5-difluorophenoxy)methyl]benzoate
The title compound was prepared according to the procedure described in step 1 of Example 1 from methyl 2-(bromoethyl)-5-chlorobenzoate and 3,5-difluorophenol:

reactant | methyl 2-(bromoethyl)-5-chlorobenzoate | BrCCC1=C(C(=O)OC)C=C(C=C1)Cl | C10H10BrClO2
reactant | 3,5-difluorophenol | FC=1C=C(C=C(C1)F)O | C6H4F2O
product | Methyl 5-chloro-2-[(3,5-difluorophenoxy)methyl]benzoate | ClC=1C=CC(=C(C(=O)OC)C1)COC1=CC(=CC(=C1)F)F | C15H11ClF2O3
